US07026321B2
To a stirred mixture of 2-chloro-2-hydroxyiminoacetic acid ethyl ester (2.11 g, 13.52 mmol) and 4-trifluoromethystyrene (2.0 g, 11.27 mmol) in anhydrous tetrahydrofuran (15 ml) was added dropwise a solution of triethylamine (3.0 ml, 21.52 mmol) in tetrahydrofuran (5 ml) at room temperature. The resulting reaction mixture was stirred at an atmosphere of nitrogen for 16 hours, filtered, partitioned between water and ethyl acetate (2×50 ml), washed with saturated aqueous sodium bicarbonate, 30% aqueous ammonium chloride, brine, dried over sodium sulfate, and concentrated to afford a pale yellow solid, which was purified by chromatography (2:8 EtOAc:Hexane) to afford ethyl 5-(4-(trifluoromethyl)phenyl)-4,5-dihydroisoxazole-3-carboxylate (2.86 g, M+1=288.2)

reactant | 2-chloro-2-hydroxyiminoacetic acid ethyl ester | 13.52 mmol, 2.11 g | C(C)OC(C(=NO)Cl)=O | C4H6ClNO3
reactant | 4-trifluoromethystyrene | 11.27 mmol, 2.0 g | FC(C1=CC=C(C=C)C=C1)(F)F | C9H7F3
reactant | triethylamine | 21.52 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | ethyl 5-(4-(trifluoromethyl)phenyl)-4,5-dihydroisoxazole-3-carboxylate | 2.86 g | FC(C1=CC=C(C=C1)C1CC(=NO1)C(=O)OCC)(F)F | C13H12F3NO3
